US08431573B2
4-[(2-Methoxybenzyl)amino]-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (038 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 521 mg (3.80 mmol) of 2-methoxybenzylamine to give 62 mg (46% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | 2-methoxybenzylamine | 3.80 mmol, 521 mg | COC1=C(CN)C=CC=C1 | C8H11NO
product | 4-[(2-Methoxybenzyl)amino]-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | COC1=C(CNC=2N=C(NC(C2C#N)=O)CC2=CSC=C2)C=CC=C1 | C18H16N4O2S
